US05907038
80mg (3R,4R)-4-(4-Benzyloxy-benzoyloxy)-3-[4-(4-fluoro-benzoyloxy)-benzoylamino]-azepane-1-carboxylic acid tert-butyl ester was dissolved in tetrahydrofuran. 10 mg 5% palladium on charcoal was added and the mixture hydrogenated at atmospheric pressure and room temperature for 2 hours. The catalyst was filtered on, the pad washed with tetrahydrofuran and the filtrate evaporated under reduced pressure. The residue was purified by chromatography on silica gel (10 g, AcOEt/Hexane 1:1eluent) to afford 56 mg (80% yield) (3R,4R)-3-[4-(4-Fluoro-benzoyloxy)-benzoylamino]-4-(4-hydroxy-benzoyloxy)-azepane-1-carboxylic acid tert-butyl ester as a colorless foam

reactant | (3R,4R)-4-(4-Benzyloxy-benzoyloxy)-3-[4-(4-fluoro-benzoyloxy)-benzoylamino]-azepane-1-carboxylic acid tert-butyl ester | 80mg | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](CCC1)OC(C1=CC=C(C=C1)OCC1=CC=CC=C1)=O)NC(C1=CC=C(C=C1)OC(C1=CC=C(C=C1)F)=O)=O | C39H39FN2O8
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | palladium on charcoal | 10 mg | [Pd] | Pd
product | (3R,4R)-3-[4-(4-Fluoro-benzoyloxy)-benzoylamino]-4-(4-hydroxy-benzoyloxy)-azepane-1-carboxylic acid tert-butyl ester | 56 mg, 80% yield | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](CCC1)OC(C1=CC=C(C=C1)O)=O)NC(C1=CC=C(C=C1)OC(C1=CC=C(C=C1)F)=O)=O | C32H33FN2O8
